US08557834B2
N-({1-Cyclohexyl-6-hydroxy-3-[(2-methylphenyl)methyl]-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl}carbonyl)glycine
A mixture of ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate (340 mg, 1.0 mmoles), pulv. potassium carbonate (740 mg, 5.35 mmoles) and 2-methylbenzene (268 uL, 2.0 mmoles) in dimethylformamide (5 mL) was vigorously stirred at 100° C. for 3 hours. The mixture was poured into 1 molar hydrochloric acid and extracted with ethyl acetate (×2). The combined organic solutions were washed with 1 molar hydrochloric acid and evaporated. The residue was purified by flash chromatography (10-50% ethyl acetate in hexane), the required fractions evaporated, dissolved in ethanol (5 mL) and 1 molar sodium hydroxide solution (3.0 mL) added. The mixture was stirred overnight, acidified and extracted with ethyl acetate (×2), the combined extracts washed with 1 molar hydrochloric acid, dried and evaporated. Preparative HPLC (20-90% acetonitrile-water-0.1% TFA) gave the title compound (12 mg, 3.0%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.11 (br. s., 1 H), 10.15 (br. s., 1 H), 7.00-7.29 (m, 3 H), 6.89 (d, J=6.82 Hz, 1 H), 4.96 (s, 2 H), 4.65 (t, J=12.25 Hz, 1 H), 4.13 (d, J=5.56 Hz, 2 H), 2.35 (s, 3 H), 2.26 (q, 2 H), 1.78 (d, J=12.13 Hz, 2 H), 1.51-1.72 (m, 3 H), 1.28 (q, 2 H), 1.10 (q, 1 H).

reactant | ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate | 1.0 mmoles, 340 mg | C1(CCCCC1)N1C(NC(C(=C1O)C(=O)NCC(=O)OCC)=O)=O | C15H21N3O6
reactant | potassium carbonate | 5.35 mmoles, 740 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methylbenzene | 2.0 mmoles, 268 uL | CC1=CC=CC=C1 | C7H8
reactant | hydrochloric acid | 1 molar | Cl | ClH
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-({1-Cyclohexyl-6-hydroxy-3-[(2-methylphenyl)methyl]-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl}carbonyl)glycine | 12 mg, 3.0% | C1(CCCCC1)N1C(N(C(C(=C1O)C(=O)NCC(=O)O)=O)CC1=C(C=CC=C1)C)=O | C21H25N3O6
